*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXA100ARA470MF61G
*//   Date        : 2020/12/24
*//   Update      : 2023/09/19 Change MPN case code
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXA100ARA470MF61G_20deg-C 1 2

C1 4 2 4.05e-05
C2 5 2 7.01e-06
C3 6 2 1.54e-06
R1 3 4 1.32e-02
R2 4 5 2.15e-01
R3 5 6 1.77e+01
L1 1 3 2.80e-09

.ENDS
